US08304419B2
Step A: 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-imidazole-4-carboxylic acid
A solution of sodium chlorite (0.505 g, 5.59 mmol) and sodium dihydrogenphosphate monohydrate (0.463 g, 3.35 mmol) in water (4 mL) was added to a solution of bis(1,1-dimethylethyl)(4-formyl-1H-imidazol-2-yl)imidodicarbonate (0.174 g, 0.559 mmol), 2-methyl-2-butene (2M in THF) (3.49 mL, 6.99 mmol), t-BuOH (2 mL) and THF (6 mL). The mixture was stirred at RT overnight. The reaction mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated. The residue was triturated with ether and the resulting white solid was dried under vacuum to give 0.098 g (53%) of the title compound. MS m/z 326 (M−1).

reactant | sodium chlorite | 5.59 mmol, 0.505 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate monohydrate | 3.35 mmol, 0.463 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | bis(1,1-dimethylethyl)(4-formyl-1H-imidazol-2-yl)imidodicarbonate | 0.559 mmol, 0.174 g | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC=C(N1)C=O | C14H21N3O5
reactant | 2-methyl-2-butene | 6.99 mmol, 2M, 3.49 mL | CC(C)=CC | C5H10
solvent | water | 4 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 2 mL | CC(C)(C)O | C4H10O
product | 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-imidazole-4-carboxylic acid | 0.098 g, 53% | CC(C)(C)OC(=O)N(C=1NC=C(N1)C(=O)O)C(=O)OC(C)(C)C | C14H21N3O6
